US09290517B2
Step B(a): (3R,3aR,6aR)-6-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)amino)hexahydrofuro[3,2-b]furan-3-ol (minor isomer)
TFA (0.1 mL) was added to a stirred mixture of 5-([1,1′-biphenyl]-4-yl)-N-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-amine (minor isomer) (3.2 mg, 4.61 μmol) in DCM (0.5 ml) and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.1% TFA, to give title compound. LC-MS: calculated for C24H21ClN4O3 448.13 observed m/e: 449.16 (M+H)+ (Rt 1.10/2 min); 1H NMR δ (ppm) (CD3OD): 7.72 (m, 5H), 7.61 (m, 1H), 7.49 (m, 3H), 7.54 (m, 1H), 4.61 (m, 3H), 4.31 (m, 1H), 4.14 (m, 1H), 4.03 (d, 1H), 3.91 (dd, 1H), 3.62 (dd, 1H).

reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 5-([1,1′-biphenyl]-4-yl)-N-((3aR,6R,6aS)-6-((tert-butyldimethylsilyl)-oxy)hexahydrofuro[3,2-b]furan-3-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-amine | 4.61 μmol, 3.2 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)NC2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C)Cl)C1=CC=CC=C1 | C36H49ClN4O4Si2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6aR)-6-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl)amino)hexahydrofuro[3,2-b]furan-3-ol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)NC2CO[C@H]1[C@@H]2OC[C@H]1O)Cl)C1=CC=CC=C1 | C24H21ClN4O3
